US08030435B2
In a round bottom flask, 1 L (715 g, 6.38 mols) of 1-octene and 1.3 L (12.76 mols) of hypophosphorus acid (50% aqueous solution), 50 mL of tert-butyl perbenzoate, as initiator, and 1.7 L of 2-propanol as solvent are stirred at 80° C. for 7 h. The completed reaction mixture is combined with 2.0 L of water and 2.0 L of n-heptane. The mixture is separated and the organic phase is further washed with 1 L water. The water layer is further washed with 1 L of heptane and all the heptane layers are combined. This mixture is treated with 1 kg of anhydrous sodium sulfate and the solvent is evaporated to obtain 1.12 kg of crude n-octyl phosphinic acid with 85% purity (31P NMR).

reactant | 1-octene | 6.38 mols, 1 L, 715 g | C=CCCCCCC | C8H16
reactant | hypophosphorus acid | 12.76 mols, 1.3 L | OP=O | HO2P
reactant | tert-butyl perbenzoate | 50 mL | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
reactant | water | 2.0 L | O | H2O
solvent | 2-propanol | 1.7 L | CC(C)O | C3H8O
solvent | n-heptane | 2.0 L | CCCCCCC | C7H16
product | n-octyl phosphinic acid | 1.12 kg | C(CCCCCCC)P(O)=O | C8H19O2P
